US04906633
A solution of 20.4 g (61.7 mmol) of N-[2-[[(3,5-diamino-6-chloropyrazinyl)carbonyl]amino]ethyl]-N-methyl-beta-alanine methyl ester and 36.0 g (0.6 mol) of ethylenediamine was heated at 40° C. fdr 2 days under an inert atmosphere. The excess ethylene diamine was evaporated. The residue was triturated with 2-propanol. There was obtained 15.2 g (44.4 mmol 72%) of 3,5-diamino-N-[2-[[3-[(2-aminoethyl)amino]-3-oxopropyl]methylamino]ethyl]-6-chloropyrazinecarboxamide as a white solid; mp 140°-142° C.; Rf =0.27, Solvent System A.

reactant | N-[2-[[(3,5-diamino-6-chloropyrazinyl)carbonyl]amino]ethyl]-N-methyl-beta-alanine methyl ester | 61.7 mmol, 20.4 g | COC(CCN(C)CCNC(=O)C1=NC(=C(N=C1N)N)Cl)=O | C12H19ClN6O3
reactant | ethylenediamine | 0.6 mol, 36.0 g | C(CN)N | C2H8N2
product | 3,5-diamino-N-[2-[[3-[(2-aminoethyl)amino]-3-oxopropyl]methylamino]ethyl]-6-chloropyrazinecarboxamide | 44.4 mmol, 15.2 g, 72% | NC=1C(=NC(=C(N1)N)Cl)C(=O)NCCN(C)CCC(=O)NCCN | C13H23ClN8O2
